US05202335
To a solution of (E)-2-(4-methylbenzylidene)-3-(cis-3a,4,7,7a-tetrahydro-2-isoindolinylcarbonyl)-propionic acid (310 mg) in N,N-dimethylformamide (20 ml) were added triethylamine (105 mg) and propyl bromide (125 mg) and the mixture was stirred at room temperature for 15 hours. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed successively with 1N hydrochloric acid, saturated sodium bicarbonate solution, and brine and dried over MgSO4. After the solvent was evaporated under reduced pressure, the residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (4/1) to give 165 mg of propyl (E)-2-(4-methylbenzylidene)-3-(cis-3a,4,7,7a-tetrahydro-2-isoindolinyl)propionate as a colorless viscous oil.

reactant | (E)-2-(4-methylbenzylidene)-3-(cis-3a,4,7,7a-tetrahydro-2-isoindolinylcarbonyl)-propionic acid | 310 mg | CC1=CC=C(\C=C(\C(=O)O)/CC(=O)N2C[C@H]3CC=CC[C@H]3C2)C=C1 | C20H23NO3
reactant | triethylamine | 105 mg | C(C)N(CC)CC | C6H15N
reactant | propyl bromide | 125 mg | C(CC)Br | C3H7Br
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | propyl (E)-2-(4-methylbenzylidene)-3-(cis-3a,4,7,7a-tetrahydro-2-isoindolinyl)propionate | 165 mg | CC1=CC=C(\C=C(\C(=O)OCCC)/CN2C[C@H]3CC=CC[C@H]3C2)C=C1 | C22H29NO2
